US04199589
D. Trans-3,4-dichloro-N-[2-(N-methyl-N-trichloroethoxycarbonylamino)cycloheptyl]aniline hydrochloride
To a mixture of 3.03 g. (0.03 mole) of triethylamine and 0.03 mole of the free diamine, trans-3,4-dichloro-N-[2-(N-methylamino)cycloheptyl]aniline, released from its hydrochloride salt with sodium hydroxide, in 250 ml. of ethyl ether, there is added 6.36 g. (0.03 mole) of 2,2,2-trichloroethyl chloroformate in 50 ml. of ethyl ether. The mixture is stirred at room temperature for 2 hours. Then 100 ml. of saturated sodium bicarbonate solution is added. The organic layer is dried over magnesium sulfate and concentrated to a yellow oil. This oil is converted to its hydrochloride salt by treatment with excess ethereal hydrochloric acid. This subtitled salt is recrystallized from a mixture of 120 ml. of methanol and 400 ml. of ethyl ether.

reactant | triethylamine | 0.03 mole | C(C)N(CC)CC | C6H15N
reactant | trans-3,4-dichloro-N-[2-(N-methylamino)cycloheptyl]aniline | ClC=1C=C(N[C@H]2[C@@H](CCCCC2)NC)C=CC1Cl | C14H20Cl2N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2,2,2-trichloroethyl chloroformate | 0.03 mole | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl ether | C(C)OCC | C4H10O
product | Trans-3,4-dichloro-N-[2-(N-methyl-N-trichloroethoxycarbonylamino)cycloheptyl]aniline hydrochloride | Cl.ClC=1C=C(N[C@H]2[C@@H](CCCCC2)N(C(=O)OCC(Cl)(Cl)Cl)C)C=CC1Cl | InChI=1S/C17H21Cl5N2O2.ClH/c1-24(16(25)26-10-17(20,21)22)15-6-4-2-3-5-14(15)23-11-7-8-12(18)13(19)9-11;/h7-9,14-15,23H,2-6,10H2,1H3;1H/t14-,15-;/m1./s1
